US08198453B2
To a 0° C. solution of crude tert-butyl (2S,4R)-1-azido-7-chloro-4-(hydroxymethyl)heptan-2-ylcarbamate (3.20 g, 10.0 mmol) in anhydrous DMF (50 mL) was added NaH (60% in mineral oil, 2.0 g, 50.0 mmol), 5 min later the temperature was allowed to warm to room temperature and stirred another 1.5 h. Ethyl iodide (4.68 g, 2.4 mL, 30.0 mmol) was added and stirred overnight at room temperature. The reaction was quenched with sat. aq. NH4Cl at 0° C., and extracted with EA (70 mL), the separated organic phase was washed with H2O (2×50 mL), brine (50 mL) successively, and dried over Na2SO4 and concentrated to afford an oil, which was purified on flash chromatography on silica gel and eluted with ethyl acetate/hexane (0-20%) to afford 1.8 g of tert-butyl (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(ethyl)carbamate. MS ESI+ve m/z: 313 (M+H)+.

reactant | tert-butyl (2S,4R)-1-azido-7-chloro-4-(hydroxymethyl)heptan-2-ylcarbamate | 10.0 mmol, 3.20 g | N(=[N+]=[N-])C[C@H](C[C@@H](CCCCl)CO)NC(OC(C)(C)C)=O | C13H25ClN4O3
reactant | NaH | 50.0 mmol, 2.0 g | [H-].[Na+]
reactant | Ethyl iodide | 30.0 mmol, 2.4 mL, 4.68 g | C(C)I | C2H5I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(ethyl)carbamate | 1.8 g | N(=[N+]=[N-])C[C@H](C[C@@H]1COCCC1)N(C(OC(C)(C)C)=O)CC | C15H28N4O3
